US06750363B2
(E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-2-pentenoic acid sodium salt
A solution of potassium tert-butoxide (7.25 g, 64.6 mmol) in THF (24 ml) was added over 1 hour to a stirred solution of sodium 1-hydroxy-3-(2-methyl-1,1′-biphenyl-4-yl)-1-propanesulfonate (5.0 g, 15.2 mmol) and 3-(diethoxyphosphoryl)succinic acid 1-tert-butyl ester (5.5 g, 17.7 mmol) in THF (6 ml) and tert-butanol (30 ml), between −5 and 0° C., under nitrogen. The mixture was stirred between −5 and 0° C. for 4 hours and then a solution of citric acid (13.2 g) in demineralised water (132 ml) was added in one portion. The pH was adjusted to pH4-5 by the addition of aqueous sodium hydroxide solution (40%) and the organic phase was separated. The organic phase was concentrated in vacuo and then recombined with the aqueous phase. Ethyl acetate (55 ml) was added and the organic phase was separated and then washed with a solution of sodium bicarbonate (3.5 g) in demineralised water (50 ml). The organic phase was separated and washed with citric acid (5.0 g) in demineralised water (50 ml), demineralised water (50 ml) and then concentrated in vacuo to an orange oil. The oil was taken up in acetonitrile (30 ml) and a solution of sodium bicarbonate (0.65 g, 4.1 mmol) in demineralised water (5 ml) was added. The solution was azeotropically dried by distillation at a constant volume of acetonitrile and the mixture was granulated at 20-25° C. overnight. The mixture was filtered and the residue dried in vacuo at 45° C. to give the title compound as a white solid (2.6 g, 43% yield, 95% pure by NMR).

reactant | potassium tert-butoxide | 64.6 mmol, 7.25 g | CC(C)([O-])C.[K+]
reactant | sodium 1-hydroxy-3-(2-methyl-1,1′-biphenyl-4-yl)-1-propanesulfonate | 15.2 mmol, 5.0 g | OC(CCC1=CC(=C(C=C1)C1=CC=CC=C1)C)S(=O)(=O)[O-].[Na+]
reactant | 3-(diethoxyphosphoryl)succinic acid 1-tert-butyl ester | 17.7 mmol, 5.5 g | C(C)(C)(C)OC(CC(C(=O)O)P(=O)(OCC)OCC)=O | C12H23O7P
reactant | citric acid | 13.2 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | 4.1 mmol, 0.65 g | C([O-])(O)=O.[Na+]
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | tert-butanol | 30 ml | C(C)(C)(C)O | C4H10O
solvent | water | 132 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | (E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1′-biphenyl-4-yl)-2-pentenoic acid sodium salt | 2.6 g, 43% yield | [Na+].C(C)(C)(C)OC(C/C(/C(=O)[O-])=C\CCC1=CC(=C(C=C1)C1=CC=CC=C1)C)=O | InChI=1S/C24H28O4.Na/c1-17-15-18(13-14-21(17)19-10-6-5-7-11-19)9-8-12-20(23(26)27)16-22(25)28-24(2,3)4;/h5-7,10-15H,8-9,16H2,1-4H3,(H,26,27);/q;+1/p-1/b20-12+;
